US08563721B2
Preparation of 3-[(tert-butyldimethylsilyl)oxy]-17-(cyclopropylmethyl)-4,5a-epoxy-14-hydroxyl-6-(1,3-dioxolan-2-yl)morphinan
17-(cyclopropylmethyl)-4,5a-epoxy-3,14-dihydroxy-6-(1,3-dioxolan-2-yl)morphinan (3.85 g, 10 mmol) was dissolved in 10 ml of DMF, then imidazole (0.68 g, 10 mmol) and tert-butyl dimethyl chlorosilane (1.5 g, 10 mmol) were added with stirring. The whole system was reacted at a temperature ranging from 20° C. to 25° C. for 40 min. After the reaction was complete, water was added to the system and the resultant mixture was extracted with diethyl ether for 3 times. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated for crystallization to afford a white solid of 4.0 g. Yield: 80%. Melting point: 107.7-109.3° C.

reactant | 17-(cyclopropylmethyl)-4,5a-epoxy-3,14-dihydroxy-6-(1,3-dioxolan-2-yl)morphinan | 10 mmol, 3.85 g | C1(CC1)CN1[C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)C1OCCO1)O | C23H29NO5
reactant | imidazole | 10 mmol, 0.68 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl dimethyl chlorosilane | 10 mmol, 1.5 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[(tert-butyldimethylsilyl)oxy]-17-(cyclopropylmethyl)-4,5a-epoxy-14-hydroxyl-6-(1,3-dioxolan-2-yl)morphinan | Yield: 80% | [Si](C)(C)(C(C)(C)C)OC=1C=CC=2C[C@@H]3[C@@]4(CCC([C@H]5[C@@]4(C2C1O5)CCN3CC3CC3)C3OCCO3)O | C29H43NO5Si
